US04803280
A solution of 65.5 g of hydrazinecarboxylic acid, methyl ester, 150 ml of dry pyridine and 500 ml of dry dichloromethane was stirred at 0° C. and 100 g of distilled t-butylacetyl chloride was added dropwise. After 2 hours at 0°-5° C. the solvent was removed in vacuo. The residue was taken up in 1.2 liters of ethyl acetate, washed with saturated sodium chloride and filtered through a bed of hydrous magnesium silicate with additional ethyl acetate. The filtrate was concentrated and the solid recrystallized from diisopropyl ether, giving 130 g of 2-(3,3-dimethyl-l-oxobutyl)hydrazinecarboxylic acid, methyl ester as white platelets, mp 83°-84.5° C.

reactant | hydrazinecarboxylic acid, methyl ester | 65.5 g | N(N)C(=O)OC | C2H6N2O2
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
reactant | t-butylacetyl chloride | 100 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(3,3-dimethyl-l-oxobutyl)hydrazinecarboxylic acid, methyl ester | 130 g | CC(CC(=O)NNC(=O)OC)(C)C | C8H16N2O3
